US07935722B2
N-[9-(6-Fluoro-pyridin-2-ylmethyl)-6-trifluoromethoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide
Dissolve 9-(6-fluoro-pyridin-2-ylmethyl)-6-trifluoromethoxy-2,3,4,9-tetrahydro-1H-carbazol-3-ylamine (Preparation 47) (580 mg, 1.53 mmol) and triethylamine (201 mg, 277 μL, 1.99 mmol) in CH2Cl2 (20 ML). Slowly add isobutyryl chloride (212 mg, 208 μL, 1.99 mmol) and stir at room temperature for 18 h. Dilute the reaction with dilute HCl (10 mL), then load the reaction onto a Varian ChemElut CE1020 solid-phase extraction cartridge (Varian part number 12198008). Elute, collect, and concentrate 125 mL CH2Cl2 to give the crude product (794 mg) as a brown oil. Purify the crude product on silica gel (40 g), eluting with 35-65% EtOAc/hexanes to afford 358 mg (52%) of the title compound as a yellow foam. MS (ES): m/z 450 (M+1), 448 (M−1); HPLC (Method B): Rt=8.21 min (100%).

reactant | 9-(6-fluoro-pyridin-2-ylmethyl)-6-trifluoromethoxy-2,3,4,9-tetrahydro-1H-carbazol-3-ylamine | 1.53 mmol, 580 mg | FC1=CC=CC(=N1)CN1C2=CC=C(C=C2C=2CC(CCC12)N)OC(F)(F)F | C19H17F4N3O
reactant | triethylamine | 1.99 mmol, 277 μL, 201 mg | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 1.99 mmol, 208 μL, 212 mg | C(C(C)C)(=O)Cl | C4H7ClO
reactant | HCl | 10 mL | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[9-(6-Fluoro-pyridin-2-ylmethyl)-6-trifluoromethoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 358 mg, 52% | FC1=CC=CC(=N1)CN1C2=CC=C(C=C2C=2CC(CCC12)NC(C(C)C)=O)OC(F)(F)F | C23H23F4N3O2
